** sch_path: /foss/designs/pruebaSim/plantillaPrueba.sch
**.subckt plantillaPrueba
V1 v1 GND {V}
R1 v1 GND 1k m=1
V2 eoc GND PULSE(0 1 0 10p 10p 1n 2n)
R2 eoc GND 1k m=1
**** begin user architecture code



*.include pruebaSim.save
.param temp=27
.param V=1
.control
alterparam V={$valor * 1m}
reset

tran 1p 5n

print {$valor}
print  i(V1) v(V1)

meas tran med find v1 when eoc=1
meas tran med2 find i(v1) when eoc=1
print med med2 > ./out/sim{$valor}.txt


.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
