** sch_path: /foss/designs/pruebaSim/plantillaPrueba.sch
**.subckt plantillaPrueba
V1 v1 GND {V}
R1 v1 GND 1k m=1
**** begin user architecture code



*.include pruebaSim.save
.param temp=27
.param V=1

.control
alterparam V=$valor
reset
op
*plot v1
print {$valor}
print  i(V1) v(V1)
write pruebaSim.raw

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
